US04430265
In a solvent mixture (120 ml) of ethyl acetate and N,N-dimethylformamide (5:1) was dissolved N-carbobenzoxy-11-aminoundecanoic acid (10.1 g, 30 m mols) and p-nitrophenol (4.59 g, 33 m mols), followed by addition of N,N'-dicyclohexylcarbodiimide (6.80 g, 33 m mols). The mixture was stirred at room temperature for 15 hours, after which the precipitate was filtered off. The solvent was distilled off and the residue was crystallized in petroleum ether, recovered by filtration and recrystallized from ethyl acetate-petroleum ether. By the above procedure there was obtained 7.65 g of N-carbobenzoxy-11-aminoundecanoic acid p-nitrophenyl ester. m.p. 72°-73° C.; Rf1 =0.94.

reactant | N-carbobenzoxy-11-aminoundecanoic acid | 10.1 g | C(=O)(OCC1=CC=CC=C1)NCCCCCCCCCCC(=O)O | C19H29NO4
reactant | p-nitrophenol | 4.59 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 6.80 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-carbobenzoxy-11-aminoundecanoic acid p-nitrophenyl ester | 7.65 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CCCCCCCCCCNC(=O)OCC1=CC=CC=C1)=O | C25H32N2O6
